### ISSUE TITLE
`simp_all` produces invalid proof term

### ISSUE THREAD

**Issue by fpfu** [leanprover/lean4#1024]
### Prerequisites

* [X] Put an X between the brackets on this line if you have done all of the following:
    * Checked that your issue isn't already [filed](https://github.com/leanprover/lean4/issues).
    * Reduced the issue to a self-contained, reproducible test case.

### Description

`simp_all` produces proof term that doesn't type check

### Steps to Reproduce

```lean
inductive Vector (α : Type u): Nat → Type u where
| nil : Vector α 0
| cons (head : α) (tail : Vector α n) : Vector α (n+1)

namespace Vector
  def nth : ∀{n}, Vector α n → Fin n → α
  | n+1, cons x xs, ⟨  0, _⟩ => x
  | n+1, cons x xs, ⟨k+1, h⟩ => xs.nth ⟨k, sorry⟩  

  def snoc : ∀{n : Nat} (xs : Vector α n) (x : α), Vector α (n+1)
  | _, nil,    x' => cons x' nil
  | _, cons x xs, x' => cons x (snoc xs x')

  theorem nth_snoc_eq (k: Fin (n+1))(v : Vector α n)
    (h: k.val = n):
    (v.snoc x).nth k = x := by
    cases k; rename_i k hk
    induction v generalizing k <;> subst h
    . simp only [nth]
    . simp_all[nth] -- error there

  theorem nth_snoc_eq_works (k: Fin (n+1))(v : Vector α n)
    (h: k.val = n):
    (v.snoc x).nth k = x := by
    cases k; rename_i k hk
    induction v generalizing k <;> subst h
    . simp only [nth]
    . simp[*,nth]  -- it works
end Vector
```

**Expected behavior:** `simp_all` should work

**Actual behavior:** get error:
```
application type mismatch
  implies_congr_ctx (Eq.refl (k = n✝)) fun h =>
    congrFun
      (congrArg Eq
        (congrArg (nth (snoc tail✝ x))
          ((fun {n} val val_1 e_2 =>
              Eq.rec (motive := fun val_2 e_2 =>
                ∀ (isLt : val < n), { val := val, isLt := isLt } = { val := val_2, isLt := e_2 ▸ isLt })
                (fun isLt => Eq.refl { val := val, isLt := isLt }) e_2)
            k n✝ h hk)))
      x
argument
  fun h =>
    congrFun
      (congrArg Eq
        (congrArg (nth (snoc tail✝ x))
          ((fun {n} val val_1 e_2 =>
              Eq.rec (motive := fun val_2 e_2 =>
                ∀ (isLt : val < n), { val := val, isLt := isLt } = { val := val_2, isLt := e_2 ▸ isLt })
                (fun isLt => Eq.refl { val := val, isLt := isLt }) e_2)
            k n✝ h hk)))
      x
has type
  k = n✝ →
    (nth (snoc tail✝ x) { val := k, isLt := hk } = x) =
      (nth (snoc tail✝ x) { val := n✝, isLt := (_ : n✝ < n✝ + 1) } = x) : Prop
but is expected to have type
  k = n✝ → ?q₁ = ?q₂ : Prop
```

**Reproduces how often:** 100%

### Versions

`nightly-2022-02-21`

### Additional Information

works in `nightly-2022-02-08`
doesn't work in `nightly-2022-02-11`
